US05883106
B. 1-Cyano-1-(3-hydroxyphenyl)cyclobutane
To a stirred solution of 1-cyano-1-(3-methoxyphenyl)cyclobutane (1.93 g, 10 mmol) in dry dichloromethane (50 ml) was added a 1.0M solution of boron tribromide in dichloromethane (22 ml, 22 mmol) at 0° C. and the mixture stirred for 30 min at the same temperature, then overnight at room temperature. The reaction mixture was quenched by the addition of water (100 ml) and extracted with dichloromethane (50 ml×2). The organic phase was washed with brine (50 ml), dried (MgSO4) and concentrated in vacuo to afford 1.70 g (100%) of the titled compound as a clear brown oil.

reactant | 1-cyano-1-(3-methoxyphenyl)cyclobutane | 10 mmol, 1.93 g | C(#N)C1(CCC1)C1=CC(=CC=C1)OC | C12H13NO
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 22 mmol, 22 ml | ClCCl | CH2Cl2
product | 1-Cyano-1-(3-hydroxyphenyl)cyclobutane | 1.70 g, 100% | C(#N)C1(CCC1)C1=CC(=CC=C1)O | C11H11NO
